US08710243B2
4-(3-(4-methoxyphenyl)-1H-indol-2-yl)-3,5-dimethylisoxazole (37 mg, 0.12 mmol) and 2,2-bis-(4-cyanatophenyl)propane (0.6 eq) were mixed in a vial. 1.8 ml DMSO and Et3N (3 eq) were added and the mixture was heated at 120° C. in microwave. 2,2-bis-(4-cyanatophenyl)propane (5.7 eq) and Et3N (40 eq) were added and the mixture was heated at 150° C. for 25 min in microwave. Brine was added and the aqueous layer was extracted with EtOAc 6×. The combined organic layers were dried over Na2SO4 and concentrated. The crude product was taken up in DCM, filtered through cotton wool and purified on silica (EtOAc/n-Heptane 1:9-2:8). 25.7 mg 2-(3,5-dimethylisoxazol-4-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile was obtained as a yellowish solid.

reactant | 4-(3-(4-methoxyphenyl)-1H-indol-2-yl)-3,5-dimethylisoxazole | 0.12 mmol, 37 mg | COC1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C=1C(=NOC1C)C | C20H18N2O2
reactant | 2,2-bis-(4-cyanatophenyl)propane | 0.6 eq | O(C#N)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC#N | C17H14N2O2
reactant | DMSO | 1.8 ml | CS(=O)C | C2H6OS
reactant | Et3N | 3 eq | CCN(CC)CC | C6H15N
reactant | 2,2-bis-(4-cyanatophenyl)propane | 5.7 eq | O(C#N)C1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OC#N | C17H14N2O2
reactant | Et3N | 40 eq | CCN(CC)CC | C6H15N
solvent | Brine | [Cl-].[Na+].O
product | 2-(3,5-dimethylisoxazol-4-yl)-3-(4-methoxyphenyl)-1H-indole-1-carbonitrile | 25.7 mg | CC1=NOC(=C1C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)OC)C#N)C | C21H17N3O2
